US05714434
C.I. Solvent Green 3.
For example, cyan dyes include Kayaset Blue 714 (Solvent Blue 63, manufactured by Nippon Kayaku Co., Ltd.), Foron Brilliant Blue S-R (Disperse Blue 354, manufactured by Sandoz K.K.), and Waxoline AP-FW (Solvent Blue 36, manufactured by ICI Japan); magenta dyes include MS-REDG (Disperse Red 60, manufactured by Mitsui Toatsu Chemicals, Inc.) and Macrolex Violet R (Disperse Violet 26, manufactured by Bayer); and yellow dyes include Foron Brilliant Yellow S-6GL (Disperse Yellow 231, manufactured by Sandoz K.K.) and Macrolex Yellow 6G (Disperse Yellow 201, manufactured by Bayer).

reactant | Foron | CC(=CC(=O)C=C(C)C)C | C9H14O
reactant | Solvent Blue 36 | CC(C)NC1=C2C(=C(C=C1)NC(C)C)C(=O)C3=CC=CC=C3C2=O | C20H22N2O2
reactant | Macrolex Yellow 6G | CCN(CCOC1=CC=C(C=C1)C2CCCCC2)C3=CC(=C(C=C3)C=C(C#N)C#N)C | C27H31N3O
product | C.I. Solvent Green 3 | CC1=CC=C(C=C1)NC2=C3C(=C(C=C2)NC4=CC=C(C=C4)C)C(=O)C5=CC=CC=C5C3=O | C28H22N2O2
